US05514773
(R)-4-(2-methoxybenzyl)-2,2-dimethyl-1,3-dioxolane(2.2 g) was dissolved in ethanol (20 ml) and to 6N-aqueoushydrochloric acid solution was added and stirred for 2 hours atroom temperature. After evaporating ethanol in vacuo, water wasadded and extracted with ethyl acetate. After washing with aqueoussaturated sodium bicarbonate solution, it was dried over sodiumsulfate and evaporated in vacuo to give (R)-3-(2- methoxyphenyl)propane-1,2-diol (1.62 g).

reactant | (R)-4-(2-methoxybenzyl)-2,2-dimethyl-1,3-dioxolane | 2.2 g | COC1=C(C[C@H]2OC(OC2)(C)C)C=CC=C1 | C13H18O3
solvent | ethanol | 20 ml | C(C)O | C2H6O
product | (R)-3-(2- methoxyphenyl)propane-1,2-diol | 1.62 g | COC1=C(C=CC=C1)C[C@H](CO)O | C10H14O3
